### PR TITLE
[Merged by Bors] - feat(Data/Nat/Bitwise): more symmetric statement of `Nat.xor_trichotomy`

### PR DESCRIPTION
**Pull request by vihdzp**
We state `Nat.xor_trichotomy` in a more symmetric form. We golf most of the proof and change most `simp` to `rw`. Note that this makes the proof of `lt_xor_cases` (which is useful in the current form for Sprague-Grundy) slightly longer.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Command-Master — APPROVED** [review]

File: Mathlib/Data/Nat/Bitwise.lean [hunk 1]
```diff
@@ -344,40 +344,39 @@ theorem xor_eq_zero {n m : ℕ} : n ^^^ m = 0 ↔ n = m := by
...
-  obtain ⟨i, ⟨hi, hi'⟩⟩ := exists_most_significant_bit (xor_ne_zero.2 h)
-  have : testBit a i = true ∨ testBit b i = true ∨ testBit c i = true := by
+  obtain ⟨i, ⟨hi, hi'⟩⟩ := exists_most_significant_bit h
+  have : testBit a i ∨ testBit b i ∨ testBit c i := by
     contrapose! hi
-    simp only [Bool.eq_false_eq_not_eq_true, Ne, testBit_xor, Bool.bne_eq_xor] at hi ⊢
-    rw [hi.1, hi.2.1, hi.2.2, Bool.xor_false, Bool.xor_false]
+    simp_rw [Bool.eq_false_eq_not_eq_true] at hi ⊢
+    rw [testBit_xor, testBit_xor, hi.1, hi.2.1, hi.2.2]
+    rfl
```
Comment (TwoFX) [inline Mathlib/Data/Nat/Bitwise.lean:364]: These `rfl`s are a bit unfortunate, but the underlying issue for this is actually in core (namely that `Nat.testBit_xor` produces `Bool.xor` instead of `xor`, and also the fact that `Bool.xor` even exists). I'll see if I can get it fixed there.

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
